US08242104B2
10-bromo-2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine was reacted with 6-fluoropyridin-3-ylboronic acid to give 10-(6-fluoropyridin-3-yl)-2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (0.121 g, 39%). 1H NMR (500 MHz, DMSO) δ 8.67 (d, J=2.4, 1H), 8.52 (d, J=2.6, 1H), 8.25 (td, J=8.2, 2.7, 1H), 7.92 (s, 1H), 7.68 (dd, J=8.5, 2.5, 1H), 7.31 (dd, J=8.4, 2.8, 1H), 7.19 (d, J=8.5, 1H), 5.69 (dt, J=13.3, 6.6, 1H), 4.56 (s, 4H), 2.26 (s, 3H), 1.47 (d, J=6.6, 6H). MS (ESI(+)): m/z 405.2 (M+H)

reactant | 10-bromo-2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | BrC=1C=CC2=C(C=3N(CCO2)C=C(N3)C3=NC(=NN3C(C)C)C)C1 | C17H18BrN5O
reactant | 6-fluoropyridin-3-ylboronic acid | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
product | 10-(6-fluoropyridin-3-yl)-2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.121 g, 39% | FC1=CC=C(C=N1)C=1C=CC2=C(C=3N(CCO2)C=C(N3)C3=NC(=NN3C(C)C)C)C1 | C22H21FN6O
